US07968552B2
Thionyl chloride was added to (4′-chloro-2′-methylbiphenyl-3-yl)methanol under cooing with ice-methanol, followed by stirring at room temperature for 1 hour to obtain 4-chloro-3′-(chloromethyl)-2-methylbiphenyl.

reactant | Thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | (4′-chloro-2′-methylbiphenyl-3-yl)methanol | ClC1=CC(=C(C=C1)C1=CC(=CC=C1)CO)C | C14H13ClO
product | 4-chloro-3′-(chloromethyl)-2-methylbiphenyl | ClC1=CC(=C(C=C1)C1=CC(=CC=C1)CCl)C | C14H12Cl2
